US05037853
To a solution of 2-phenoxybenzoic acid (10.00 g, 46.7 mmol) in THF (250 mL) was added dropwise borane.dimethylsulfide (9.8 mL of a 10.0 M solution, 98 mmol). Upon completion of addition, the reaction was stirred for 15 hrs. It was then quenched with aqueous 10% HCl (250 mL) and extracted with ethylacetate (3×250 mL). The organics were combined, dried with MgSO4 and concentrated to afford crude 2-phenoxybenzyl alcohol.

reactant | 2-phenoxybenzoic acid | 46.7 mmol, 10.00 g | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O3
reactant | borane | B | BH3
reactant | dimethylsulfide | CSC | C2H6S
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-phenoxybenzyl alcohol | O(C1=CC=CC=C1)C1=C(CO)C=CC=C1 | C13H12O2
